US09359359B2
To a solution of 6-amino-1-methylpyrimidine-2,4(1H,3H)-dione (13.1 g, 92.9 mmol) in DMF (200 mL) was added 1,1-dimethoxy-N,N-dimethylmethanamine (13 mL, 97.9 mmol) and the mixture was stirred at 40° C. for 3 h. Then 1-(chloromethyl)-4-methoxybenzene (15.05 mL, 111.5 mmol) was added followed by potassium carbonate (25.64 g, 0.186 mmol) and DMF (100 mL), the resulting mixture was stirred at 80° C. for 48 h. The reaction was cooled and diluted with ethyl acetate. The organic phase was washed with brine, dried and concentrated to give a crude product which was purified by silica gel chromatography eluting with methanol/DCM (1:80 to 1:20) to give (E)-N′-(1-(4-methoxybenzyl)-3-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)-N,N-dimethylformimidamide (7.8 g, 26.5% yield) as yellow solid. LCMS retention time 1.023 min; LCMS MH+ 317.

reactant | 6-amino-1-methylpyrimidine-2,4(1H,3H)-dione | 92.9 mmol, 13.1 g | NC1=CC(NC(N1C)=O)=O | C5H7N3O2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 97.9 mmol, 13 mL | COC(N(C)C)OC | C5H13NO2
reactant | 1-(chloromethyl)-4-methoxybenzene | 111.5 mmol, 15.05 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | potassium carbonate | 0.186 mmol, 25.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (E)-N′-(1-(4-methoxybenzyl)-3-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)-N,N-dimethylformimidamide | 7.8 g, 26.5% yield | COC1=CC=C(CN2C(N(C(=CC2=O)/N=C/N(C)C)C)=O)C=C1 | C16H20N4O3
